US04061656
(3,4,5-tribromo-2-thenyl)triphenylphosphonium chloride
Triphenylphosphine (9.0 g.) and 10.4 g. of 3,4,5-tribromo-2-chloromethylthiophene were dissolved in 200 ml. of toluene. The mixture was refluxed overnight under argon, cooled to room temperature and the precipitated phosphonium salt was collected by filtration, washed several times with cold benzene and dried at 80° C. under high vacuum. The resulting (3,4,5-tribromo-2-thenyl)triphenylphosphonium chloride has a m.p. 248°-249° C.

reactant | Triphenylphosphine | 9.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3,4,5-tribromo-2-chloromethylthiophene | BrC1=C(SC(=C1Br)Br)CCl | C5H2Br3ClS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (3,4,5-tribromo-2-thenyl)triphenylphosphonium chloride | [Cl-].BrC1=C(SC(=C1Br)Br)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C23H17Br3PS.ClH/c24-21-20(28-23(26)22(21)25)16-27(17-10-4-1-5-11-17,18-12-6-2-7-13-18)19-14-8-3-9-15-19;/h1-15H,16H2;1H/q+1;/p-1
